US08609653B2
2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1-((tetrahydro-2H-pyran-4-yl)methyl)-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid
The title compound was prepared in a manner similar to that described in Example 27, Step H from methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate and 4-(bromomethyl)tetrahydro-2H-pyran. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.49-7.43 (m, 1 H), 7.20-7.11 (m, 2 H), 6.98 (t, J=8.3 Hz, 1 H), 6.45-6.39 (m, 1 H), 5.53 (d, J=4.3 Hz, 1 H), 4.51-4.41 (m, 1 H), 4.32 (t, J=5.2 Hz, 2 H), 4.24 (dd, J=7.9, 14.5 Hz, 1 H), 4.03-3.93 (m, 2 H), 3.45-3.33 (m, 2 H), 2.97-2.82 (m, 5 H), 2.29 (br. s., 1 H), 2.17-2.07 (m, 2 H), 1.64-1.55 (m, 1 H), 1.54-1.33 (m, 3 H), 1.00-0.90 (s, 9 H); LC/MS (m/z) ES+=493.38 (M+1).

reactant | methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | C(C)(C)(C)OC(C(=O)OC)C=1C(=C2C(=NC1C)NC=C2)C=2C=C1CCCOC1=CC2 | C24H28N2O4
reactant | 4-(bromomethyl)tetrahydro-2H-pyran | BrCC1CCOCC1 | C6H11BrO
product | 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1-((tetrahydro-2H-pyran-4-yl)methyl)-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid | C(C)(C)(C)OC(C(=O)O)C=1C(=C2C(=NC1C)N(C=C2)CC2CCOCC2)C=2C=C1CCCOC1=CC2 | C29H36N2O5
